US06727264B1
5-(3,5-DICHLOROPHENOXY)-N-(4-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}BUTYL)-2-FURAMIDE:
Prepared by Procedure Q2 (THF/DCM, 1:3) and Scheme AT using N-{3-[1-(4-aminobutyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 5-(3,5-dichlorophenoxy)-2-furoyl chloride: ESMS m/e: 572.0 (M+H)+.

reactant | N-{3-[1-(4-aminobutyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C19H31N3O
reactant | 5-(3,5-dichlorophenoxy)-2-furoyl chloride | ClC=1C=C(OC2=CC=C(O2)C(=O)Cl)C=C(C1)Cl | C11H5Cl3O3
solvent | THF DCM | C1CCOC1.C(Cl)Cl
product | 5-(3,5-DICHLOROPHENOXY)-N-(4-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}BUTYL)-2-FURAMIDE | ClC=1C=C(OC2=CC=C(O2)C(=O)NCCCCN2CCC(CC2)C2=CC(=CC=C2)NC(C(C)C)=O)C=C(C1)Cl | C30H35Cl2N3O4
